data/mechanism_extracts/Angew/10.1002_anie.202406017_sup_1.json
{"doi": "10.1002_anie.202406017_sup_1", "journal": "Angew", "is_review": false, "rxn_class_summary": "Electrochemical radical trifluoromethylation/cyclization of N-allyl benzamides with CF3SO2Na to access 3,4-dihydroisoquinolin-1(2H)-ones via anodic CF3 radical generation and subsequent radical cyclization with decarbonylative/dearomative rearrangement", "mechanism_family": ["radical_anodic", "radical_polar_crossover", "cation_initiated"], "electrochemical_role": "Anodic oxidation of CF3SO2- (Langlois reagent 2a) to generate CF3 radical (with loss of SO2); subsequent anodic oxidations of cyclohexadienyl/aminyl radical intermediates to cations that are trapped by MeOH or undergo intramolecular SNAr-type rearrangement", "key_intermediates": [{"name": "CF3 radical", "smiles": "[CH0](F)(F)F", "role": "reactive"}, {"name": "Carbon-centered radical B (CF3-addition adduct to allyl alkene)", "smiles": null, "role": "reactive"}, {"name": "Spirocyclic cyclohexadienyl radical C (5-exo ipso-cyclization adduct)", "smiles": null, "role": "reactive"}, {"name": "Ring-expanded dihydroisoquinolinone radical C' (6-endo / decarbonylative-rearranged adduct)", "smiles": null, "role": "reactive"}, {"name": "Carbamoyl/N-acyliminium-type cation E (after second anodic oxidation)", "smiles": null, "role": "transient"}, {"name": "Methoxy carbamate cation F (MeOH addition product)", "smiles": null, "role": "transient"}, {"name": "Dihydroisoquinolinone cation G (intramolecular SNAr product)", "smiles": null, "role": "reactive"}, {"name": "N-acyl oxazolidinium intermediate (from N-OMe substrate 1d, leading to benzoate ester S1)", "smiles": null, "role": "off_pathway"}], "electron_flow": "Anode oxidizes CF3SO2- to CF3 radical (with SO2 extrusion), which adds to the allyl alkene of the N-acyl substrate to give a C-radical B; intramolecular ipso-addition onto the aryl ring forms spirocyclic radical C (5-exo), which rearranges to the dihydroisoquinolinone-type radical C' via neophyl-like C-C migration; C' is oxidized at the anode to cation G, and deprotonation/aromatization affords the dihydroisoquinolinone. With N-OMe substrates, the carbamoyl cation E is intercepted by MeOH to give carbamate F, accounting for the rearranged ester byproduct S1.", "rate_determining_step": "Radical cyclization/rearrangement step TS_BC (5-exo ipso-spirocyclization, ~16.4 kcal/mol for Ts; ~8.5 kcal/mol for t-Bu by DLPNO-CCSD(T)) is the highest barrier on the productive pathway", "probe_reagents": [{"name": "N-OMe allyl benzamide 1d", "smiles": "C=CCN(OC)C(=O)c1ccccc1", "purpose": "intermediate_trap", "observation": "Formation of rearranged benzoic ester S1 (29%) along with cyclized 4d (10%) supports trapping of a carbamoyl/N-acyliminium cation by intramolecular OMe migration via an oxazolidinium intermediate"}, {"name": "MeOH co-solvent (with N-Ts and N-t-Bu substrates 1ab/1ae)", "smiles": "CO", "purpose": "intermediate_trap", "observation": "With Ts (1ab): linear methoxycarbonyl product 5b (27%) and cyclized 4b (24%); with t-Bu (1ae): 5e (63%) and no cyclized 4e, indicating that the cation intermediate is intercepted by MeOH and that the protecting group governs partitioning between rearrangement and trapping"}, {"name": "DFT (B3LYP-D3/def2-SV(P); DLPNO-CCSD(T)/def2-TZVPP)", "smiles": null, "purpose": "other", "observation": "Computed competitive Truce-Smiles (desulfonylative) pathway TS_AB' is 6.8 kcal/mol above the productive decarbonylative TS_BC; C-C cleavage of spirocycle C to C' has ~70 kcal/mol barrier, ruling out direct radical ring expansion and supporting a stepwise cation-mediated rearrangement"}], "evidence_types_used": ["DFT", "intermediate_trap_other", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "A competitive Truce-Smiles (desulfonylative) rearrangement was considered but is disfavored by DFT (TS_AB' 6.8 kcal/mol above TS_BC). Direct radical-radical C-C bond cleavage from spirocycle C to ring-expanded radical C' is energetically prohibitive (~70 kcal/mol), so rearrangement is proposed to occur via the cation manifold after a second anodic oxidation (E -> F or E -> G). The N-protecting group strongly biases the outcome: t-Bu favors open-chain methoxycarbonyl product, Ts allows cyclization to dihydroisoquinolinone."}
